* source REDUCTOR
V_V4         N14447 0 15Vdc
V_V3         N14515 0 -15Vdc
X_U2B         N15432 N14507 N14447 N14515 VO LM358
R_R4         N14507 VO  100k TC=0,0 
R_R5         0 N14507  47k TC=0,0 
X_U3B         N14974 VAS N14931 N146973 VAS LM358
X_U4B         VB N15321 N15265 N15283 N15321 LM358
R_R6         VB VAS  68k TC=0,0 
R_R7         0 VB  18k TC=0,0 
V_V5         N14931 0 15Vdc
V_V6         N146973 0 -15Vdc
V_V7         N15283 0 -15Vdc
V_V8         N15265 0 15Vdc
V_V1         N14974 0 5Vdc
V_V9         N16502 0 5Vdc
R_R8         N15321 N15432  100k TC=0,0 
R_R9         N15432 0  51k TC=0,0 
R_R10         N16502 N15432  200k TC=0,0 
